datasets/RMG-dataset.csv
rxn,Ea
[O:0][H:1].[c:2]1([H:12])[c:3]([H:13])[c:4]([H:14])[c:5]2[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]2[c:11]1[H:19]>>[O:0]([H:1])[H:12].[c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]2[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]2[c:11]1[H:19],19.1233
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7](=[C:8]([c:9]1[c:10]([H:25])[c:11]([H:26])[c:12]([H:27])[c:13]([H:28])[c:14]1[H:29])[H:24])[c:15]1[c:16]([H:30])[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]1[H:34])([H:21])([H:22])[H:23]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:7]([C:6]([H:21])([H:22])[H:23])([C:8]([c:9]1[c:10]([H:25])[c:11]([H:26])[c:12]([H:27])[c:13]([H:28])[c:14]1[H:29])[H:24])[c:15]1[c:16]([H:30])[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]1[H:34])[H:3],50.6264
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([H:10])([H:11])[H:12]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:9]([H:10])([H:11])[H:12],87.1946
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[O:18][H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[H:15][O:18][H:19],2.204968
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12],125.646
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:7])[H:8])([H:5])[H:6],262.755
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12]([C:13]([H:20])([H:21])[H:22])=[C:14]([C:15]([H:23])([H:24])[H:25])[C:16]([H:26])([H:27])[H:28])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[C:12]([C:11]([H:17])([H:18])[H:19])([C:13]([H:20])([H:21])[H:22])[C:14]([C:15]([H:23])([H:24])[H:25])[C:16]([H:26])([H:27])[H:28])[H:6])([H:4])[H:5],56.0238
[C:0](#[C:1][C:2]=[C:3]([C:4]#[C:5][H:8])[H:7])[H:6].[H:9]>>[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:8])[H:6].[H:7][H:9],0.0
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[C:12]([C:13]([S:14][H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:18])[H:7])([H:5])[H:6].[C:12]([C:13]([S:14][H:20])[H:19])([H:15])([H:16])[H:17],54.392
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([C:6](=[C:7]([C:8]([C:9](=[C:10]([H:22])[H:23])[H:21])[H:20])[H:19])[H:18])([H:16])[H:17])[H:15])[H:11]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]1([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])=[C:7]([H:19])[C:8]1([C:9](=[C:10]([H:22])[H:23])[H:21])[H:20])[H:11],113.888
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15](=[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[C:17]([C:16](=[C:15]([H:20])[H:21])[H:22])([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])[H:7],41.3379
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]([C:10](=[S:11])[H:16])[H:15])([H:12])([H:13])[H:14]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:9]([C:8]([H:12])([H:13])[H:14])([C:10](=[S:11])[H:16])[H:15],106.274
[C:0](=[C:1]=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])([H:21])([H:22])[H:23]>>[C:0](=[C:1][C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[C:18]([C:17]([H:21])([H:22])[H:23])([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])([H:9])[H:10],24.8111
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16],106.073
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[S:9]([C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])[H:18])[H:17]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:10]([S:9][H:17])([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])[H:18],74.4334
[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([C:4]([H:11])([H:12])[H:13])=[O:5])([H:6])[H:7].[O:14][O:15]>>[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([C:4]([H:12])[H:13])=[O:5])([H:6])[H:7].[H:11][O:14][O:15],192.464
